US05102904
Preparation of 5-(p-Chlorophenyl)-1-methoxypyrrole-3-carboxylic acid
Sodium hydroxide (50% 2.75 g, 0.0343 mol) in water is added to a stirred solution of ethyl 5-(p-chlorophenyl)-1-methoxypyrrole-2-carboxylate (8.0 g, 0.0286 mol) in ethanol. The reaction mixture is heated at reflex temperature for 2 hours, cooled to room temperature, diluted with water and extracted with ether. The aqueous layer is acidified with 10% hydrochloric acid and extracted with ether. The combined ether extracts are washed sequentially with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to yield a solid which upon trituration with boiling hexanes gives the title compound as a white crystalline solid (7.0 g, 97%), mp 189° C.-191° C.

reactant | Sodium hydroxide | 0.0343 mol, 2.75 g | [OH-].[Na+]
reactant | ethyl 5-(p-chlorophenyl)-1-methoxypyrrole-2-carboxylate | 0.0286 mol, 8.0 g | ClC1=CC=C(C=C1)C1=CC=C(N1OC)C(=O)OCC | C14H14ClNO3
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-(p-Chlorophenyl)-1-methoxypyrrole-3-carboxylic acid | 7.0 g, 97% | ClC1=CC=C(C=C1)C1=CC(=CN1OC)C(=O)O | C12H10ClNO3
